US04310534
In a mixture of 50 ml of tetrahydrofuran and 50 ml of aqueous 50% dimethylamine solution 5 g of 2-(4-bromobutoxy)-2'-chlorostilbene was dissolved and the resulting solution was stirred for 20 hours at ambient temperature. After the reaction was complete, the solvent was distilled off at reduced pressure. An aqueous 2 N NaOH solution was added to the residue and the mixture was extracted with ether. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. To the extract an ethanolic 20% hydrogen chloride was added to give 2-(4-dimethylaminobutoxy)-2'-chlorostilbene hydrochloride as a precipitate, which was then collected by filtration and recrystallized from ethanol-ether. Yield 4.7 g (94%). The data of melting point and elemental analysis are reported in the line of No. 1 in Table 2. Various compounds were also prepared in a similar manner. The data for these compounds are shown in Table 2.

reactant | dimethylamine | 5 g | CNC | C2H7N
reactant | 2-(4-bromobutoxy)-2'-chlorostilbene | BrCCCCOC1=C(C=CC=C1)C=CC1=C(C=CC=C1)Cl | C18H18BrClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(4-dimethylaminobutoxy)-2'-chlorostilbene hydrochloride | Cl.CN(CCCCOC1=C(C=CC=C1)C=CC1=C(C=CC=C1)Cl)C | InChI=1S/C20H24ClNO.ClH/c1-22(2)15-7-8-16-23-20-12-6-4-10-18(20)14-13-17-9-3-5-11-19(17)21;/h3-6,9-14H,7-8,15-16H2,1-2H3;1H
